US07696216B2
After one hour stirring a mixture of 143 mg (0.476 mmol) (2-amino-4,5-dimethoxy-phenyl)-(4-isopropyl-phenyl)-methanone, 98 mg (0.476 mmol) 2-(3,4-dimethoxy-phenyl)-2-methyl-propionaldehyde, 1.1 g molecular sieves 4 Å pore size, 5 ml 1,2-dichloroethane and 31 μl (0.476 mmol) acetic acid 41 mg (0.666 mmol) NaCNBH3 are added. Over the duration of 4 days three additional portions of 31 μl acetic (0.476 mmol) and 41 mg NaCNBH3 (0.666 mmol) are added. Excess hydride is destroyed by addition of 1 M hydrochloric acid and the reaction mixture is basified by means of 1 M sodium hydroxide. {2-[2-(3,4-Dimethoxy-phenyl)-2-methyl-propylamino]-4,5-dimethoxy-phenyl}-(4-isopropyl-phenyl)-methanone is isolated by filtration followed by extraction with dichloromethane and reversed phase preparative HPLC.

reactant | (2-amino-4,5-dimethoxy-phenyl)-(4-isopropyl-phenyl)-methanone | 0.476 mmol, 143 mg | NC1=C(C=C(C(=C1)OC)OC)C(=O)C1=CC=C(C=C1)C(C)C | C18H21NO3
reactant | 2-(3,4-dimethoxy-phenyl)-2-methyl-propionaldehyde | 0.476 mmol, 98 mg | COC=1C=C(C=CC1OC)C(C=O)(C)C | C12H16O3
reactant | acetic acid | 0.476 mmol, 31 μl, 41 mg | C(C)(=O)O | C2H4O2
reactant | acetic | 0.476 mmol, 31 μl | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | NaCNBH3 | 0.666 mmol, 41 mg | [BH3-]C#N.[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | {2-[2-(3,4-Dimethoxy-phenyl)-2-methyl-propylamino]-4,5-dimethoxy-phenyl}-(4-isopropyl-phenyl)-methanone | COC=1C=C(C=CC1OC)C(CNC1=C(C=C(C(=C1)OC)OC)C(=O)C1=CC=C(C=C1)C(C)C)(C)C | C30H37NO5
